* tb_ldo_dc -- DC operating point, line regulation and load regulation for
* ldo_capless, at the mid trim code. Numbers to beat are the 2026-07-17 feasibility
* run on the flat netlist (prototype/ldo/ldo.spice): Vout 1.199 V, line reg
* ~0.04 mV/V, load reg ~6.6 mV over 1->20 mA. This testbench drives the SCHEMATIC-
* generated hierarchy instead, so a disagreement means the schematic diverged from
* the circuit that was demonstrated -- which is the whole point of running it.
.lib $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.include $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cap_cmomf.lib
.lib $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib res_typ
* The resistor model's body terminal is the global substrate node `sub!`. Unless it is
* declared global AND tied, it floats inside each subcircuit, the matrix is singular, and
* ngspice quietly abandons its DC strategies and falls back to a transient operating
* point -- which returns numbers that look plausible and are not solutions. Declare and
* tie it in every bench.
* ldo_enable instantiates a standard-cell inverter for the 1.2 V control-bus side.
.include $PDK_ROOT/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice
.global sub!
.include ../sim/netlist/ldo_capless.spice

Vin     vin     0 3.3
Vrefbg  vref_bg 0 1.2
Vss     vss     0 0
* 1.2 V control-bus supply and the enable input
Vddd    vddd    0 1.2
Ven     en      0 1.2
Vsub sub! 0 0
Ibias   0       ibias DC 1u   $ harness supplies 1 uA (ibias1u_*); multiplied 10x on-slot
Iload   vout    0 DC 1m

* mid code (10000b = 16): only the MSB segment shorted
Vt0 vtrim0 0 0
Vt1 vtrim1 0 0
Vt2 vtrim2 0 0
Vt3 vtrim3 0 0
Vt4 vtrim4 0 1.2

.control
  op
  print v(vout) v(vfb) v(vref) v(eout)
  echo "=== LINE REG (VIN 2.8..3.6 @ 1 mA) ==="
  dc Vin 2.8 3.6 0.02
  meas dc vo_lo FIND v(vout) AT=2.9
  meas dc vo_hi FIND v(vout) AT=3.58
  echo "=== LOAD REG (Iload 0..50 mA @ VIN 3.3) ==="
  dc Iload 0 50m 2m
  meas dc vo_noload   FIND v(vout) AT=0
  meas dc vo_fullload FIND v(vout) AT=48m
  echo "=== ENABLE: disabled state ==="
  * remove the load as well: an ideal current sink on an undriven node drags vout
  * negative, which is a property of the testbench and not of the regulator
  alter Iload dc = 0
  alter Ven dc = 0
  op
  print v(vout) v(eout)
  print -i(Vin)
  echo "=== ENABLE: re-enabled ==="
  alter Ven dc = 1.2
  alter Iload dc = 1m
  op
  print v(vout) v(eout)
  print -i(Vin)
.endc
.end
